US09314021B2
Ascorbic Acid
Ascorbyl Palmitate or Stearate

reactant | Ascorbyl Palmitate | CCCCCCCCCCCCCCCC(=O)OC[C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O | C22H38O7
reactant | Stearate | C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | Ascorbic Acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
